US07728025B2
(Step 2) Production of N-(4-(1,4-dihydroxy-2-methylbutyl)-3-fluorophenyl)pyridine-2-carboxamide
150 mg of sodium borohydride was added to a methanol (8 ml) solution of 320 mg of N-(3-fluoro-4-(2-(2-hydroxyethyl)acryloyl)phenyl)pyridine-2-carboxamide, and the reaction liquid was stirred at room temperature for 1 hour. Aqueous saturated sodium bicarbonate was added to the reaction liquid, extracted with chloroform, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=100/1) to obtain the entitled compound as a colorless oily substance.

reactant | sodium borohydride | 150 mg | [BH4-].[Na+]
reactant | N-(3-fluoro-4-(2-(2-hydroxyethyl)acryloyl)phenyl)pyridine-2-carboxamide | 320 mg | FC=1C=C(C=CC1C(C(=C)CCO)=O)NC(=O)C1=NC=CC=C1 | C17H15FN2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 8 ml | CO | CH4O
product | N-(4-(1,4-dihydroxy-2-methylbutyl)-3-fluorophenyl)pyridine-2-carboxamide | OC(C(CCO)C)C1=C(C=C(C=C1)NC(=O)C1=NC=CC=C1)F | C17H19FN2O3
